US06951868B2
(8-Chloro-2H-pyrano[2,3-c]pyridin-6-yl)methanol (988 mg, 5.0 mmol) is combined with 100 mg 10% Pd/C in 25 ml EtOH containing 3 ml (6 mmol) of 2N aqueous NaOH in a 250 ml PARR shaker bottle. The reaction is hydrogenated at 50 PSI for 48 h, the catalyst is removed by filtration, and the filtrate is concentrated to dryness. The mixture is partitioned between 1×10 ml 1:1 saturated NaCl/conc. NH4OH and 4×10 ml CH2Cl2 and the combined organic layer is dried (K2CO3). The mixture is concentrated in vacuo to give 730 mg (89%) of 3,4-dihydro-2H-pyrano[2,3-c]pyridin-6-ylmethanol as an off-white solid. HRMS (FAB) calcd for C9H11NO2+H: 166.0868, found 166.0868 (M+H)+.

reactant | (8-Chloro-2H-pyrano[2,3-c]pyridin-6-yl)methanol | 5.0 mmol, 988 mg | ClC=1N=C(C=C2C1OCC=C2)CO | C9H8ClNO2
reactant | EtOH | 6 mmol, 25 ml | CCO | C2H6O
reactant | NaOH | 2N | [OH-].[Na+]
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 3,4-dihydro-2H-pyrano[2,3-c]pyridin-6-ylmethanol | 730 mg, 89% | O1CCCC=2C1=CN=C(C2)CO | C9H11NO2
